### PR TITLE
[Merged by Bors] - perf: make LocalInvariantProp a structure

### PR DESCRIPTION
**Pull request by fpvandoorn**
* Also redefine `MDifferentiableWithinAt` and `MDifferentiableAt` so that they are using `LiftProp[Within]At`.
* This causes a speedup in the old proof of `ContMDiffWithinAt.cle_arrowCongr` by 25%.
* Also give some extra information in the proof of `ContMDiffWithinAt.cle_arrowCongr` to speed it up by another factor of 4.
* A bit of the fallout (e.g. in `hasSmoothAddSelf`) is from Lean unfolding *way* too many definitions to make things definitionally equal. Since `LiftPropWithinAt` is now a structure, the old proofs now break, unless you rewrite with `chartedSpaceSelf_prod`), causing much less defeq-abuse.
* The new lemmas `MDifferentiableWithinAt.differentiableWithinAt_writtenInExtChartAt` and `MDifferentiableAt.differentiableWithinAt_writtenInExtChartAt` have a bit long names. This is to avoid naming clash with the existing `MDifferentiableWithinAt.differentiableWithinAt`. I'm open for other suggestions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Algebra/Monoid.lean [hunk 1]
```diff
@@ -514,8 +514,10 @@ section
 variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] {E : Type*} [NormedAddCommGroup E]
   [NormedSpace 𝕜 E]
 
-instance hasSmoothAddSelf : SmoothAdd 𝓘(𝕜, E) E :=
-  ⟨by rw [← modelWithCornersSelf_prod]; exact contDiff_add.contMDiff⟩
+instance hasSmoothAddSelf : SmoothAdd 𝓘(𝕜, E) E := by
+  constructor
+  rw [← modelWithCornersSelf_prod, chartedSpaceSelf_prod]
+  exact contDiff_add.contMDiff
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Algebra/Monoid.lean:520]: Is this change needed? Reading just the source, I would think that `constructor` creates two sub-goals, each line solves one, and you could condense them as the original proof.

**Comment by fpvandoorn** [comment]
Out of curiousity:

!bench

File: Mathlib/Geometry/Manifold/MFDeriv/Defs.lean [hunk 2]
```diff
@@ -197,15 +197,32 @@ We require continuity in the definition, as otherwise points close to `x` in `s`
...
 
-theorem mdifferentiableWithinAt_iff_liftPropWithinAt (f : M → M') (s : Set M) (x : M) :
-    MDifferentiableWithinAt I I' f s x ↔ LiftPropWithinAt (DifferentiableWithinAtProp I I') f s x :=
-  by rfl
-#align mdifferentiable_within_at_iff_lift_prop_within_at mdifferentiableWithinAt_iff_liftPropWithinAt
+theorem mdifferentiableWithinAt_iff' (f : M → M') (s : Set M) (x : M) :
+    MDifferentiableWithinAt I I' f s x ↔ ContinuousWithinAt f s x ∧
+    DifferentiableWithinAt 𝕜 (writtenInExtChartAt I I' x f)
+      ((extChartAt I x).symm ⁻¹' s ∩ range I) ((extChartAt I x) x) :=
+  by rw [MDifferentiableWithinAt, liftPropWithinAt_iff']; rfl
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Defs.lean:207]: Should the `by` go on the previous line?

File: Mathlib/Geometry/Manifold/MFDeriv/Defs.lean [hunk 3]
```diff
@@ -216,17 +233,33 @@ We require continuity in the definition, as otherwise points close to `x` could
...
-    MDifferentiableAt I I' f x ↔ LiftPropAt (DifferentiableWithinAtProp I I') f x := by
-  congrm ?_ ∧ ?_
-  · rw [continuousWithinAt_univ]
-  · -- Porting note: `rfl` wasn't needed
-    simp [DifferentiableWithinAtProp, Set.univ_inter]; rfl
-#align mdifferentiable_at_iff_lift_prop_at mdifferentiableAt_iff_liftPropAt
+theorem mdifferentiableAt_iff (f : M → M') (x : M) :
+    MDifferentiableAt I I' f x ↔ ContinuousAt f x ∧
+    DifferentiableWithinAt 𝕜 (writtenInExtChartAt I I' x f) (range I) ((extChartAt I x) x) := by
+  rw [MDifferentiableAt, liftPropAt_iff];
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Defs.lean:242]:
```suggestion
  rw [MDifferentiableAt, liftPropAt_iff]

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 4]
```diff
@@ -440,15 +441,6 @@ theorem HasMFDerivAt.continuousAt (h : HasMFDerivAt I I' f x f') : ContinuousAt
   h.1
 #align has_mfderiv_at.continuous_at HasMFDerivAt.continuousAt
 
-theorem MDifferentiableWithinAt.continuousWithinAt (h : MDifferentiableWithinAt I I' f s x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:443]: Note to self/other reviewers: these two lemmas moved to `Defs`

File: Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean [hunk 5]
```diff
@@ -377,7 +377,8 @@ theorem MDifferentiableAt.mfderiv_prod {f : M → M'} {g : M → M''} {x : M}
       (mfderiv I I' f x).prod (mfderiv I I'' g x) := by
   classical
   simp_rw [mfderiv, if_pos (hf.prod_mk hg), if_pos hf, if_pos hg]
-  exact hf.2.fderivWithin_prod hg.2 (I.unique_diff _ (mem_range_self _))
+  exact hf.differentiableWithinAt_writtenInExtChartAt.fderivWithin_prod
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean:380]: Expanding `.1` and `.2`  into e.g. `differentiableWithinAt_writtenInExtChartAt` makes the code *much* more verbose, but also more explicit. I'm not sure which one I prefer, but I don't have a strong opinion either way.

**Review by grunweg — APPROVED** [review]
Thanks a lot for picking this up - I had noticed (and being annoyed several times) at `ContMDiff/NormedSpace` being very slow. I have only minor comments.

File: Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean:380]: I wouldn't mind picking a shorter lemma name, but I don't have a particular idea either.

Comment (fpvandoorn) [reply Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean:380]: see PR message. I also wouldn't mind a shorter name.

File: Mathlib/Geometry/Manifold/Algebra/Monoid.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:520]: :bulb: Right... and you have a point. Then my only request is to use focus the two sub-goals.

Comment (fpvandoorn) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:520]: There are never two separate goals (see original proof)

Comment (fpvandoorn) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:520]: `SmoothAdd` has only one field that is not solved by type-class inference.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:520]: So my mental model of constructor was wrong. (Reading the documentation, that indeed makes sense!) Thanks for pointing this out; sorry for the noise.

**Comment by mattrobball** [comment]
> Out of curiousity:
> 
> !bench

What happened here?

**Comment by mattrobball** [comment]
!bench

**Comment by fpvandoorn** [comment]
I think the problem was that I pushed another commit, causing the CI to fail. 

I'm not quite sure under what conditions that bot triggers. Does `!bench` need to be its own message? Does the CI need to have already passed at the time of writing the command?

**Comment by mattrobball** [comment]
Thanks! 

bors merge

**Comment by mattrobball** [comment]
I have a memory of writing a multi-line comment and it working fine. CI is independent from the benchmark bot. It just builds the mathlib and runs the linters on the server. (Useful as you can `sorry` large parts to gauge performance.)

**Comment by fpvandoorn** [comment]
I was hoping for slightly more performance improvements. 
I think making things irreducible mostly speeds broken proofs up, and helps a lot less with working proofs. I think the actual gain is only from the change in ContMDiffWithinAt.cle_arrowCongr. Oh well...

**Comment by mattrobball** [comment]
Sometimes you need to operate from principles alone :)
